US08309721B2
682 mg of 2-cyano-3,5-difluoropyridine, 995 mg of 4-amino-1,2,2,6,6-pentamethylpiperidine and 1.346 mg of potassium carbonate in 10 ml of dimethyl sulphoxide are introduced into a 20 ml microwave tube reactor. The mixture is then heated in the microwave for 1 hour at 115° C. The reaction medium is run into 100 ml of water and 100 ml of ethyl acetate. The aqueous phase is re-extracted twice with 50 ml of ethyl acetate. The combined organic phases are washed with water and then with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure. After purification by flash chromatography on 70 g of silica gel, elution being carried out with a mixture of dichloromethane, methanol and 4N aqueous ammonia (99/1/0.8 by volume), and the first eluted product being recovered, 290 mg of 2-cyano-5-fluoro-3-(1,2,2,6,6-pentamethylpiperidin-4-yl)aminopyridine are thus obtained in the form of an ecru powder, the characteristics of which are the following:

reactant | 2-cyano-3,5-difluoropyridine | 682 mg | C(#N)C1=NC=C(C=C1F)F | C6H2F2N2
reactant | 4-amino-1,2,2,6,6-pentamethylpiperidine | 995 mg | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
reactant | water | 100 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
catalyst | potassium carbonate | 1.346 mg | C([O-])([O-])=O.[K+].[K+]
product | 2-cyano-5-fluoro-3-(1,2,2,6,6-pentamethylpiperidin-4-yl)aminopyridine | 290 mg | C(#N)C1=NC=C(C=C1NC1CC(N(C(C1)(C)C)C)(C)C)F | C16H23FN4
